US06747023B1
To a solution of 3-(5-thiazolyl)pyridine (400 mg) in diethyl ether (15 mg), n-butyl lithium (a 1.52 N hexane solution, 1.45 ml) was added dropwise at −78° C. After stirring for 30 minutes, a carbon dioxide gas was blown into the reaction mixture. After 10 minutes, a cooling bath was removed and the temperature of the reaction mixture was allowed to rise back slowly to room temperature. The reaction mixture was concentrated, whereby the residue of lithium 5-(3-pyridyl)thiazole-2-carboxylate was obtained as a white solid. To a solution of the resulting residue in N,N-dimethylformamide (10 ml) were added 1-[(5-chloroindol-2-yl)sulfonyl]piperazine hydrochloride (600 mg), 1-hydroxybenzotriazole monohydrate (255 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (360 mg) at room temperature. After stirring for 3 days, ethyl acetate (50 ml) and water (100 ml) were added to the reaction mixture. The white precipitate thus obtained was collected by filtration and washed with water and ethyl acetate, whereby the title compound (727 mg) was obtained as a pale brown solid. A portion of the compound was added with an aqueous solution of hydrochloric acid, followed by concentration and drying. The product thus obtained showed the following data.

reactant | 3-(5-thiazolyl)pyridine | 400 mg | S1C=NC=C1C=1C=NC=CC1 | C8H6N2S
reactant | hexane | 1.52 N | CCCCCC | C6H14
reactant | carbon dioxide | C(=O)=O | CO2
reactant | n-butyl lithium | C(CCC)[Li]
solvent | diethyl ether | 15 mg | C(C)OCC | C4H10O
product | lithium 5-(3-pyridyl)thiazole-2-carboxylate | N1=CC(=CC=C1)C1=CN=C(S1)C(=O)[O-].[Li+] | InChI=1S/C9H6N2O2S.Li/c12-9(13)8-11-5-7(14-8)6-2-1-3-10-4-6;/h1-5H,(H,12,13);/q;+1/p-1
